TRAN level 3 case 10: multisection lc filter
* Stress-mesh topology family adapted from Qucs-S RCL ladder and LC-filter example families; primitive-only subset: https://github.com/ra3xdh/qucs_s
VDRV in 0 DC 3.3
RCORE1 in lmid 68
LCORE lmid out 120u
CCORE out 0 22n
RCORE2 out 0 1.8k
RF001 out n003 180
RG001 n003 0 13k
CF001 n003 0 4n
RB001 n003 in 8k
LF001 n003 l004 50u
RX001 l004 in 23k
RX002 l004 in 24k
RX003 l004 in 25k
RF002 l004 n005 316
RG002 n005 0 21k
CF002 n005 0 12n
RB002 n005 lmid 16k
LF002 n005 l006 90u
RX004 l006 in 31k
RX005 l006 in 32k
RX006 l006 in 33k
RF003 l006 n007 452
RG003 n007 0 29k
CF003 n007 0 7n
RB003 n007 n003 7k
LF003 n007 l008 45u
RX007 l008 in 39k
RX008 l008 in 40k
RX009 l008 in 41k
RF004 l008 n009 265
RG004 n009 0 14k
CF004 n009 0 2n
RB004 n009 n005 15k
LF004 n009 l010 85u
RX010 l010 in 18k
RX011 l010 in 19k
RX012 l010 in 20k
RF005 l010 n011 401
RG005 n011 0 22k
CF005 n011 0 10n
RB005 n011 n007 6k
LF005 n011 l012 40u
RX013 l012 in 26k
RX014 l012 in 27k
RX015 l012 in 28k
RF006 l012 n013 214
RG006 n013 0 30k
CF006 n013 0 5n
RB006 n013 n009 14k
LF006 n013 l014 80u
RX016 l014 in 34k
RX017 l014 in 35k
RX018 l014 in 36k
RF007 l014 n015 350
RG007 n015 0 15k
.tran 1u 12u 2u 500n UIC
.print tran time v(in) v(out) v(lmid) i(VDRV) i(LCORE)
.end
